### PR TITLE
feat : `ZetaBnd_aux1b` + blueprint update

### PR DESCRIPTION
**Pull request by VladaSedlacek**

### CODE REVIEW

File: PrimeNumberTheoremAnd/ZetaBounds.lean [hunk 1]
```diff
@@ -1045,26 +1021,28 @@ since $n\le t$.
 \end{proof}
 %%-/
 
-lemma logt_gt_one {t : ℝ} (t_ge : 3 < |t|) : 1 < Real.log |t| := by
+lemma logt_gt_one {t : ℝ} (t_ge : 3 < |t|) : 1 < |t|.log := by
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/ZetaBounds.lean:1024]:
```suggestion
lemma logt_gt_one {t : ℝ} (t_ge : 3 < |t|) : 1 < Real.log |t| := by
```

**Review by AlexKontorovich — APPROVED** [review]
Thanks!
